US04616084
EXAMPLE 28 tert.-Butyl 4-acetylthioacetoacetate
2.40 g (21.0 mmols) of dry potassium thioacetate were added to a solution, cooled to 0° C., of 3.85 g (20.0 mmols) of tert.-butyl 4-chloroacetoacetate in 40 ml of anhydrous acetonitrile and the mixture was stirred at this temperature for 30 minutes. Thereafter, the mixture was poured into a mixture of NaCl solution and ethyl acetate, the organic phase was separated off and extracted with 2×30 ml of ethyl acetate and the extracts were washed with water and dried over MgSO4. After the solvent had been evaporated off in vacuo and the residue had been chromatographed on 60 g of silica gel (toluene:ethyl acetate 95:5), 3.87 g (83%) of the title compound were obtained as a colorless oil, RF :0.2 (toluene:ethyl acetate 95:5).

reactant | potassium thioacetate | 21.0 mmols, 2.40 g | C(C)(=S)[O-].[K+]
reactant | tert.-butyl 4-chloroacetoacetate | 20.0 mmols, 3.85 g | ClCC(CC(=O)OC(C)(C)C)=O | C8H13ClO3
reactant | NaCl | [Na+].[Cl-]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | tert.-Butyl 4-acetylthioacetoacetate | 3.87 g, 83% | C(C)(=O)CC(CC(=S)OC(C)(C)C)=O | C10H16O3S
